US07560558B2
4-Amino-pyridine-3-carbaldehyde (100 mg) and 1-bromo-butan-2-one (124 mg) were suspended in a 5 N aqueous sodium hydroxide solution (0.6 ml), and the suspension was hermetically sealed and, in this state, was allowed to stand for 3 days. The reaction solution was neutralized with 10% hydrochloric acid, the precipitate was then filtered, and the residue was washed with water and chloroform. The powder as the residue was dried under the reduced pressure to give 2-ethyl-[1,6]naphthyridin-3-ol (69 mg, yield 48%).

reactant | 4-Amino-pyridine-3-carbaldehyde | 100 mg | NC1=C(C=NC=C1)C=O | C6H6N2O
reactant | 1-bromo-butan-2-one | 124 mg | BrCC(CC)=O | C4H7BrO
reactant | sodium hydroxide | 5 N, 0.6 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
product | 2-ethyl-[1,6]naphthyridin-3-ol | 69 mg, yield 48% | C(C)C1=NC2=CC=NC=C2C=C1O | C10H10N2O
